US09079866B2
4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]sulfonyl}piperazin-2-one
The title compound was prepared in a manner similar to that described in Example 88 using 4-((2-bromo-5-(trifluoromethyl)phenyl)-sulfonyl)-piperazin-2-one and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine. MS (ESI): mass calcd. for C21H17F4N5O3S, 495.10; m/z found, 496.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.70-8.61 (d, J=1.2, 2H), 8.40 (s, 1H), 8.10-8.03 (d, J=157.7, 1H), 7.71-7.64 (d, J=7.9, 1H), 7.64-7.58 (m, 1H), 7.39-7.37 (m, 1H), 7.36 (s, 1H), 3.34 (s, 2H), 3.22-3.17 (m, 2H), 3.17-3.12 (m, 2H).

reactant | 4-((2-bromo-5-(trifluoromethyl)phenyl)-sulfonyl)-piperazin-2-one | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CC(NCC1)=O | C11H10BrF3N2O3S
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]sulfonyl}piperazin-2-one | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CC(NCC1)=O)F | C21H17F4N5O3S
